US07723329B2
A mixture of 2-benzenesulfonylmethyl-4-fluoro-1-nitrobenzene (10.2 g, 34.7 mmol), ethylene glycol (80 mL, 1.4 mol), and 1 M potassium tert-butoxide in THF (78 mL, 78 mmol) in THF (50 mL) was refluxed under nitrogen for 30 minutes. After cooling to about ambient temperature, the reaction mixture was solvent evaporated. Water was added to the residue, and it was poured into 2.0 N hydrochloric acid and ice. The mixture was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, concentrated and dried in vacuo at 74° C. for 20 minutes. 2-(3-Benzenesulfonylmethyl-4-nitro-phenoxy)-ethanol as a dark brown gum (11.7 g, 100% yield) was obtained; Mass spectrum (−EI, [M−H]−) m/z 336. 1HNMR (500 MHz, DMSO-d6): δ8.01 (d, 1H, J=9.15 Hz), 7.67-7.73 (m, 1H), 7.54-7.63 (m, 4H), 7.10 (dd, 1H, J=9.51 Hz and 2.93 Hz), 6.85 (d, 1H, J=2.81 Hz), 5.12 (s, 2H), 4.88-4.90 (m, 1H), 3.93-3.96 (m, 2H), 3.65 ppm (d, 2H, J=4.51 Hz). Elemental Analysis for C15H15NO6S: Calcd: C, 53.41; H, 4.48; N, 4.15; Found: C, 53.47; H, 4.69; N, 4.04;

reactant | 2-benzenesulfonylmethyl-4-fluoro-1-nitrobenzene | 34.7 mmol, 10.2 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H10FNO4S
reactant | ethylene glycol | 1.4 mol, 80 mL | C(CO)O | C2H6O2
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 78 mmol, 78 mL | C1CCOC1 | C4H8O
product | 2-(3-Benzenesulfonylmethyl-4-nitro-phenoxy)-ethanol | 11.7 g, 100% yield | C1(=CC=CC=C1)S(=O)(=O)CC=1C=C(OCCO)C=CC1[N+](=O)[O-] | C15H15NO6S
